US08350044B2
Preparation of 2-pyridin-3-yl-4-trifluoromethyl-thiazole-5-carboxylic acid
To a solution of 2-pyridin-3-yl-4-trifluoromethyl-thiazole-5-carboxylic acid ethyl ester (13.9 g, 46 mmol, ca. 85% pure) in methanol (150 mL) was added an aqueous solution of sodium hydroxide (total volume 75 mL, 140 mmol), and the mixture was stirred for 40 min. Upon addition of 2 N HCl (70 mL, ca pH=3) to the reaction mixture, a precipitate was formed. Water (300 mL) was then added and the heterogeneous mixture was filtered under reduced pressure. The precipitate was rinsed further with water and dried in vacuo to give the desired product as an off-white solid (7.37 g, 58%): mp 209° C.; 1H NMR (300 MHz, DMSO-d6) δ 9.21 (d, J=2.5 Hz, 1H), 8.77 (dd, J=4.9, 1.7 Hz, 1H), 8.41 (dt, J=8.0, 1.7 Hz, 1H), 7.60 (dd, J=8.0, 4.9 Hz, 1H), 3.4 (br s, 1H); ESIMS m/z 276.2 (M+1).

reactant | 2-pyridin-3-yl-4-trifluoromethyl-thiazole-5-carboxylic acid ethyl ester | 46 mmol, 13.9 g | C(C)OC(=O)C1=C(N=C(S1)C=1C=NC=CC1)C(F)(F)F | C12H9F3N2O2S
reactant | sodium hydroxide | 140 mmol | [OH-].[Na+]
reactant | HCl | 2 N, 70 mL, pH=3 | Cl | ClH
reactant | Water | 300 mL | O | H2O
solvent | methanol | 150 mL | CO | CH4O
product | 2-pyridin-3-yl-4-trifluoromethyl-thiazole-5-carboxylic acid | 7.37 g, 58% | N1=CC(=CC=C1)C=1SC(=C(N1)C(F)(F)F)C(=O)O | C10H5F3N2O2S
